US06194447B1
1-(4-Chlorobenzyl)-3-(3-triflouromethylphenyl)guanidine (Compound 3b).
A mixture of 3-cyanamidobenzotrifluoride (1.20 g, 6.45 mmol) and 4-chlorobenzylamine hydrochloride (1.26 g, 7.09 mmol) was stirred at 150° C. for 40 h. Dichloromethane (100 ml) was added and the mixture was washed with saturated aqueous sodium hydrogen carbonate (100 ml). The organic phase was purified by chromatography using silica gel and a mixture of methanol (10%) and dichloromethane as eluent. The product was isolated as the free base. Yield 1.05 g, 50%. M.p. 103-105° C.

reactant | 3-cyanamidobenzotrifluoride | 6.45 mmol, 1.20 g | N(C#N)C=1C=C(C=CC1)C(F)(F)F | C8H5F3N2
reactant | 4-chlorobenzylamine hydrochloride | 7.09 mmol, 1.26 g | Cl.ClC1=CC=C(CN)C=C1
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-Chlorobenzyl)-3-(3-triflouromethylphenyl)guanidine | ClC1=CC=C(CNC(=N)NC2=CC(=CC=C2)C(F)(F)F)C=C1 | C15H13ClF3N3
